US08957070B2
3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanamide
To a mixture of 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanoic acid (0.11 g), 1H-1,2,3-benzotriazol-1-ol (40 mg) and N,N-dimethylformamide (6 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (57 mg) at room temperature. The mixture was stirred for 20 min, and 28% aqueous ammonia (0.08 mL) was added. The reaction mixture was stirred at room temperature for 1 hr, and water was added. The resulting crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.04 g, yield 36%) was obtained as colorless crystals from a fraction eluted with tetrahydrofuran-hexane (4:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 200-201° C.

reactant | 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanoic acid | 0.11 g | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CCC(=O)O)S(=O)(=O)C=1SC=CC1 | C19H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 40 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 57 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 0.08 mL | N | H3N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)propanamide | 0.04 g, yield 36% | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CCC(=O)N)S(=O)(=O)C=1SC=CC1 | C19H18N4O3S3
